US04472407
A solution of 1.2 g of 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 25 ml of 48% hydrobromic acid was heated at reflux for three hours, and was then cooled and diluted with about 100 ml of water. The product was separated by filtration and recrystallized from aqueous N,N-dimethylformamide to provide white solid 6,7-dihydro-9-fluoro-8-hydroxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate, m.p. 293°-294° C. Analysis: Calculated for C14H12FNO4.0.25H2O=%C, 59.7; %H, 4.5; %N, 5.0; Found: %C, 59.5; %H, 4.2; %N, 5.0.

reactant | 6,7-dihydro-9-fluoro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.2 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)OC | C15H14FNO4
solvent | hydrobromic acid | 25 ml | Br | BrH
solvent | water | about 100 ml | O | H2O
product | 6,7-dihydro-9-fluoro-8-hydroxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate | O.FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)O | InChI=1S/C14H12FNO4.H2O/c1-6-2-3-7-11-8(4-10(15)13(7)18)12(17)9(14(19)20)5-16(6)11;/h4-6,18H,2-3H2,1H3,(H,19,20);1H2
